US06552188B2
Synthesis of 3-(2,3,4-trimethoxyphenyl)propenoic acid
Ethyl 3-(2,3,4-trimethoxyphenyl)propenoate (1.15 g) was dissolved in ethanol (20 mL), and to the solution 10% potassium hydroxide (1.21 g) was added, and the mixture was stirred at room temperature for 5 hours. The reaction mixture was concentrated under reduced pressure, water was added to the residue, and the mixture was adjusted to pH 2 with 2 M hydrochloric acid and extracted with ethyl acetate. The resultant organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure to obtain the title compound.

reactant | Ethyl 3-(2,3,4-trimethoxyphenyl)propenoate | 1.15 g | COC1=C(C=CC(=C1OC)OC)C=CC(=O)OCC | C14H18O5
reactant | potassium hydroxide | 1.21 g | [OH-].[K+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 3-(2,3,4-trimethoxyphenyl)propenoic acid | COC1=C(C=CC(=C1OC)OC)C=CC(=O)O | C12H14O5
